US07256198B2
Step 1: N-Benzyl-N-methyl-2,3-dioxoindoline-5-sulfonamide
To a black solution of 2,3-Dioxo-2,3-dihydro-1H-indole-5-sulfonylchloride (4.00 g, 16.3 mmol) in 1:1 THF:CHCl3 was added, drop-wise via syringe pump, a solution of N-benzylmethylamine (2.73 mL, 21.2 mmol, 1.3 eq) and N,N-diisopropylethylamine (5.68 mL, 32.6 mmol, 2 eq) in CHCl3 (32 mL) over a period of 1.25 hr. with cooling in an ice bath. After stirring for 50 min. the reaction was allowed to warm to room temperature and stirred for 30 minutes. The reaction was concentrated. The crude product was purified on Biotage KP silica gel eluting with 98/2 CHCl2/CH3OH to give the analytically pure sample of the title compound as a bright yellow solid (0.18 g, 15% yield). Anal. Calc'd for C16H14N2O4S: C, 58.17; H, 4.27; N, 8.48. Found: C, 57.88; H, 4.36; N, 8.40. MS: (API-ES−) m/z 329 [M−H]. m.p.: 183-185° C.

reactant | 2,3-Dioxo-2,3-dihydro-1H-indole-5-sulfonylchloride | 16.3 mmol, 4.00 g | O=C1NC2=CC=C(C=C2C1=O)S(=O)(=O)Cl | C8H4ClNO4S
reactant | THF | C1CCOC1 | C4H8O
reactant | N-benzylmethylamine | 21.2 mmol, 2.73 mL, 1.3 eq | C(C1=CC=CC=C1)CN | C8H11N
reactant | N,N-diisopropylethylamine | 32.6 mmol, 5.68 mL, 2 eq | C(C)(C)N(C(C)C)CC | C8H19N
solvent | CHCl3 | 32 mL | C(Cl)(Cl)Cl | CHCl3
product | N-Benzyl-N-methyl-2,3-dioxoindoline-5-sulfonamide | 0.18 g, 15% yield | C(C1=CC=CC=C1)N(S(=O)(=O)C=1C=C2C(C(NC2=CC1)=O)=O)C | C16H14N2O4S
